US06075043
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-phenylpyrazole
A solution of 2,6-dichloro-4-trifluoromethylphenylhydrazine (0.245 g) in ethanol (2 ml) was added to a stirred solution of benzoylacetonitrile (0.145 g) in ethanol (8 ml) and the resulting solution heated under reflux for 6 hours. Glacial acetic acid (1 ml) was added and the resulting mixture heated under reflux for a further 6 hours and then evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (10 g), using dichloromethane as eluant, followed by reverse phase HPLC on C18 silica, using acetonitrile:methanol:water (50:10:40) as eluant, to afford the title compound as a white solid, m.p. 141.5-142.5° C. δ(CDCl3): 3.60 (br.s,2H), 6.08 (s,1H), 7.30-7.45 (m,3H), 7.80 (s,2H), 7.80-7.85 (m,2H). MS (thermospray): M/Z [M+H] 372.1; C16H10Cl2F3N2 +H requires 372.03.

reactant | 2,6-dichloro-4-trifluoromethylphenylhydrazine | 0.245 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN | C7H5Cl2F3N2
reactant | benzoylacetonitrile | 0.145 g | C(C1=CC=CC=C1)(=O)CC#N | C9H7NO
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-phenylpyrazole | NC1=CC(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C1=CC=CC=C1 | C16H10Cl2F3N3
